Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.45902922518
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.3314293706
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][O:4][H:5],2.28773196256
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.76426705551
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.0359198521200002
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.85029132412
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[H:10].[H:7]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-3.36572728578
[C:1]#[C:2][O:3][C:4][C:8]([H:9])([H:10])[H:11].[C:5]([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.893858159730001
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11]>>[C:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](\[H:8])[O:10][O:11].[H:9],3.3322976585900004
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.859642595457
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],1.28440044281
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],-7.80244660134
[H:1][C:2][O:3][C:4][O:6][C:7]#[C:8][H:9].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9],-3.61536190943
[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.97113166812
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],7.698058646900001
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.15303903033
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.65454893613
[H:1][C:2]/[C:3]([C:4]#[C:5][H:6])=[C:7](/[H:8])[O:9][H:10]>>[C:4](#[C:5][H:6])[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3],2.8861671259900006
[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.97653905621
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8],1.91687674278
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],2.04655944241
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],3.27195201883
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](/[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.39305339538
[C:2]([H:3])(=[O:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]([C:4]([H:5])[H:6])[H:8]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.482460251061
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.602028337030001
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5],0.33920630803
[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])[H:11],2.67588436567
